US05753679
0.3 g (0.0015 mol) of 1-benzyl-4-hydroxypiperidine and 0.216 ml (0.00155 mol) of triethylamine were dissolved in 20 ml of toluene and treated with 0.21 ml (0.0016 mol) of 4-chloro-benzoyl chloride. The mixture was boiled at reflux for 6 hrs., the precipitate was filtered off and the filtrate was concentrated. The residue was chromatographed over silica gel with ethyl acetate/hexane (1:2). 0.404 g (82%) of 1-benzyl-piperidin-4-yl 4-chloro-benzoate was obtained as a colorless oil. MS: me/e (% basic peak)=329 (C19H20CINO2+, 7), 252 (7), 173 (32), 139 (15), 91 (91), 82 (100).

reactant | 1-benzyl-4-hydroxypiperidine | 0.0015 mol, 0.3 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.00155 mol, 0.216 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-benzoyl chloride | 0.0016 mol, 0.21 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 4-chloro-benzoate | 0.404 g, 82% | ClC1=CC=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1 | C19H20ClNO2
